* Z:\mnt\design.r\spice\examples\1473L.asc
XU1 NC_01 NC_02 0 N005 N006 N007 N009 0 N011 N010 N008 OUT N002 N004 N001 N003 LTC1473L
V1 IN1 0 3.3
V2 IN2 0 4.8
D1 IN1 N006 BAT54
D2 IN2 N006 BAT54
C1 N005 0 2000p
C2 N006 0 1µ
L1 N006 N009 1m Rpar=100K
C3 N007 0 1µ
M§Q1 IN1 N003 N001 N001 Si9428DY
M§Q2 N002 N004 N001 N001 Si9428DY
R1 N002 OUT .04
C4 OUT 0 100µ
M§Q3 N002 N011 N010 N010 Si9428DY
M§Q4 IN2 N008 N010 N010 Si9428DY
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m startup
.lib LTC1473L.sub
.backanno
.end
